US04755623
Dimethyl maleate (72 g, 0.5 moles) is added over a 2-3 hour period to a solution of 1,6-hexanediamine (174 g, 1.5 moles) in toluene (360 g) at 75°-80° C. The reaction temperature rises from 80° to 110° C. under reflux conditions. After the addition is completed, methanol is distilled at a reaction temperature of 120°-125° C. Additional toluene (320 g) is added to maintain reaction volume. The reaction may be followed by amine titration or by disappearance of the methyl ester in the 1H NMR spectrum. After the reaction is complete, toluene is removed under vacuum (50°-70° C., 15-20 mm Hg) to give N,N'-bis(6-aminohexyl)-2-[(6-aminohexyl)amino]butanediamide as a viscous liquid which solidifies on standing.

reactant | Dimethyl maleate | 0.5 moles, 72 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | 1,6-hexanediamine | 1.5 moles, 174 g | C(CCCCCN)N | C6H16N2
solvent | toluene | 360 g | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis(6-aminohexyl)-2-[(6-aminohexyl)amino]butanediamide | NCCCCCCNC(C(CC(=O)NCCCCCCN)NCCCCCCN)=O | C22H48N6O2
